US07790745B2
To a mixture of (R)-2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate (99 mg, 0.32 mmol),N-(3-(hydroxymethyl)phenyl)acetamide (53 mg, 0.32 mmol)and PPh3 (92 mh, 0.35)in THF(2 mL) at 0° C. was added DEAD (60 μL, 0.38 mmol). The reaction mixture was warmed to room temperature and stirred overnight. It was concentrated and purified by preparative HPLC (Phenomenex 20×100 mm eluting with 0-100% MeOH/H2O (90% in H2O) gradient over 8 min with flow rate 25 mL/min) to yield (R)-2-tert-butyl 1-methyl 6-(3-acetamidobenzyloxy)-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate as a white solid(39 mg, 27%). HPLC retention time (Method C)=3.59 min. LC/MS (ESI) (M+H)+=477.26. 1H NMR (CDCl3, 400 MHz), 1:1 rotamers, δ ppm 1.47 (s, 5H), 1.49 (s, 4H), 2.71-2.98 (m, 2H), 3.60-3.84 (m, 2H), 3.70 (s, 3H), 5.03 (s, 2H), 5.37 (s, 0.5H), 5.53 (s, 0.5H), 6.74 (s, 1H), 6.82 (dd, J=8.59, 2.53 Hz, 1H), 7.15 (d, J=7.58 Hz, 1H), 7.29-7.39 (m, 2H), 7.46 (d, J=8.08 Hz, 1H), 7.58 (br. s., 1H).

reactant | (R)-2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate | 0.32 mmol, 99 mg | OC=1C=C2CCN([C@H](C2=CC1)C(=O)OC)C(=O)OC(C)(C)C | C16H21NO5
reactant | N-(3-(hydroxymethyl)phenyl)acetamide | 0.32 mmol, 53 mg | OCC=1C=C(C=CC1)NC(C)=O | C9H11NO2
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.38 mmol, 60 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)-2-tert-butyl 1-methyl 6-(3-acetamidobenzyloxy)-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate | 39 mg, 27% | C(C)(=O)NC=1C=C(COC=2C=C3CCN([C@H](C3=CC2)C(=O)OC)C(=O)OC(C)(C)C)C=CC1 | C25H30N2O6
